2186-12-25 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2186-12-24**] 07:30 PM
   Morphine Sulfate - [**2186-12-24**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-25**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 56 (39 - 61) bpm
   BP: 129/54(73) {92/42(57) - 141/79(87)} mmHg
   RR: 21 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.5 kg (admission): 87.5 kg
                  Total In:
                                                                    120 mL
                                                                     60 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    805 mL
   Urine:
                                                                  1,625 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,505 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-1**] holosystolic blowing murmur at USB. No thrills,
   lifts. + S3
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTA B/L
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 2+ b/l LE edema to mid shin, cool LLE with more pronounced
   edema.
   SKIN: Sebborahic kerratosis on chest, marked erythema and ecchymosis
   with ulserations b/l.
   Labs / Radiology
   362 K/uL
   10.7 g/dL
   110 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.2 mEq/L
   19 mg/dL
   92 mEq/L
   128 mEq/L
   29.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2186-12-24**]  08:16 PM
                             [**2186-12-25**]  05:54 AM
   WBC
   8.6
   Hct
   29.9
   Plt
   362
   Cr
   0.8
   TropT
   0.07
   Glucose
   110
   Other labs: CK / CKMB / Troponin-T:179/10/0.07, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Patient is a 88 y/o male w/ a hx of MI s/p CABG x3, AF on coumadin, and
   CHF who presents with worsening lower extremity edema, found to have
   EKG concerning for critical conduction disease.
   .
   # CORONARIES:  The patient has a history of CAD, s/p MI with CABG.  No
   complaints of chest pain.  EKG with lasteral ST depressions and
   slightly elevated cardiac margers.
   - discuss reason no home aspirin w/ patient's PCP
   [**Name Initial (PRE) **] continue to cycle cardiac markers.
   .
   # PUMP:  Patient with worsening LE edema x 1 month and markedly
   elevanted BNP.  EKG also c/w heart failure w/ vascular congestion,
   cephalization, and kerly-B lines.  Patients weight reportedly up from
   dry weight by 6 pounds.
   - will diurese with IV lasix, with goal of removing 2-3 L
   - continue home lisinopril
   - TTE in am
   .
   # RHYTHM: Patient was admitted to the CCU with concerning EKG.  EKGs 20
   min apart, show loss of P wave, with formation of a broadened QrS with
   LBBB and irregular rate.  Rhythm strip upon arrival to floor more
   consistent with AF with slow ventricular response.  Patient has a
   history of AF, and is on anticoagulation.  Do not feel need for
   temporary pacing wire at this time.  Patient without symptoms from
   bradycardia.
   - hold off on nodal blockade
   - EP consult in AM to evaluate if patient requires PPM
   - continue coumadin
   .
   # LE wounds:  Likely from weeping LE edema.  No DVT on LENI.  Patient
   was given vanc in ED, but no evidence of infection (no fever,
   leukocytosis.)  Likely erythema from chronic venostasis.
   - diuresis as specificied abovie
   - wound care consult in am
   - will not continue vanc, as little suspicion of cellulitis
   - percocet for pain control
   .
   FEN:  low sodium, heart healthy diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic anticoagulation
   -Pain managment with percocet
   -Bowel regimen
   CODE: DNR/DNI
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-12-24**] 03:05 PM
   18 Gauge - [**2186-12-24**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2186-12-26 07:07:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   Patient is a 88 y/o male w/ a hx of MI s/p CABG x3, AF on coumadin, and
   CHF who presents with worsening lower extremity edema, found to have
   EKG concerning for critical conduction disease.
   24 Hour Events:
   The patient
s lisinopril was stopped yesterday given his diuresis.  His
   B-blocker was held.  EP recommended holding his coumadin in case of
   plan for a pacemaker placement.  His percocet was stopped.  He spiked a
   fever to 101.8 at 11 am yesterday.
   This morning he admits to chronic back pain.  Denies pain in his legs.
   Denies CP, SOB, or dizziness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2186-12-25**] 11:44 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2186-12-25**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.2
C (99
   HR: 46 (44 - 67) bpm
   BP: 116/41(58) {88/17(40) - 141/105(108)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.5 kg (admission): 87.5 kg
                  Total In:
                                                                    760 mL
                  PO:
                                                                    560 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                      0 mL
   Urine:
                                                                  1,565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -805 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   GENERAL: elderly male in NAD.
   HEENT: NCAT. Sclera anicteric.. OP clear
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**3-1**] holosystolic low pitched murmur at apex, [**3-1**]
   ejection murmur at LUSB.
   LUNGS: The patient was breathing comfortably, no accessory muscle use.
   CTA B/L
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: 2+ b/l LE edema to mid shin, erythema of RLE>LLE.
   SKIN: Sebborahic kerratosis on chest, marked erythema and ecchymosis
   with ulcerations b/l.
   PSYCH: alert and appropriate
   Labs / Radiology
   9.9 g/dL
   345 K/uL
   102 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   20 mg/dL
   91 mEq/L
   129 mEq/L
   28.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2186-12-24**]  08:16 PM
                             [**2186-12-25**]  05:54 AM
                             [**2186-12-25**]  04:36 PM
                             [**2186-12-26**]  05:06 AM
   WBC
   8.6
   7.1
   Hct
   29.9
   28.3
   Plt
   362
   345
   Cr
   0.8
   0.9
   1.1
   TropT
   0.07
   0.08
   Glucose
   110
   147
   102
   Other labs: PT / PTT / INR:26.8/40.9/2.7, CK / CKMB /
   Troponin-T:179/8/0.08, ALT / AST:14/24, Alk Phos / T Bili:79/0.9,
   Albumin:3.3 g/dL, LDH:201 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Imaging:
   TTE ([**12-25**]): Suboptimal image quality. Left ventricular cavity
   enlargement with moderate global hypokinesis c/w diffuse process.
   Moderate pulmonary artery systolic hypertension. Moderate mitral
   regurgitation. Right ventricular cavity enlargement. Dilated ascending
   aorta.  EF of 35-40%
   Compared with the prior report (images unavailable for review) of
   [**2182-2-8**], the severity of mitral regurgitation and the estimated
   pulmonary artery systolic pressure are higher. The left ventricle is
   now larger with more depressed global systolic function.
   Assessment and Plan
   Patient is a 88 y/o male w/ a hx of MI s/p CABG x3, AF on coumadin, and
   CHF who presents with worsening lower extremity edema, found to have
   EKG concerning for critical conduction disease.
   .
   # CORONARIES:  The patient has a history of CAD, s/p MI with CABG.  No
   complaints of chest pain.  EKG with lateral ST depressions and slightly
   elevated cardiac markers on admission.
   - Will discuss starting ASA with his PCP.
   .
   # PUMP:  Patient with worsening LE edema x 1 month and markedly
   elevanted BNP.  EKG also c/w heart failure w/ vascular congestion,
   cephalization, and kerly-B lines on admission.  Patients weight
   reportedly up from dry weight by 6 pounds.   The patient is negative
   2.3 L for LOS.  Had been on 40 mg of lasix IV bid yesterday.  TTE
   showed an EF of 35-40% and moderate global hypokinesis consistent with
   a diffuse process.
   - Will change the IV lasix to 60 mg daily and aim for a goal of
   negative 500 cc today.
   - Continue home lisinopril
   .
   # RHYTHM: Patient was admitted to the CCU with concerning EKG.  EKGs 20
   min apart, show loss of P wave, with formation of a broadened QrS with
   LBBB and irregular rate.  Rhythm strip upon arrival to floor more
   consistent with AF with slow ventricular response.  Patient has a
   history of AF, and is on anticoagulation.  Do not feel need for
   temporary pacing wire at this time.  The patient continues without
   symptoms from bradycardia.  EP evaluated the patient and offered a
   nonurgent pacemaker placement, however the patient does not wish to
   have a pacemaker placed.
   - Appreciate EP consult.
   - Will restart coumadin (which was held yesterday due to the
   possibility of pacemaker placement).
   - As the patient
s already bradycardic no need for nodal blockade for
   A.fib.
   .
   # LE wounds:  Likely from weeping LE edema.  No DVT on LENI.  Patient
   was given vanc in ED, but no evidence of infection (no fever,
   leukocytosis.)  Likely erythema from chronic venostasis.   Podiatry
   evaluated the patient yesterday and felt his changes were from chronic
   venous stasis and that there were no signs of infection; however they
   recommended continuing Vancomycin given his recent fevers.
   - Diuresis as specificied above
   - Appreciate wound care consult.
   - Appreciate podiatry consult.
   - Continue Vancomycin for now given concerns of superimposed infection
   given recent fevers.
   .
   # Hyponatremia:  The patient has been persistently hyponatremic (on
   admission was at 127), today is stable at 129.  Likely from total body
   fluid overload secondary to CHF causing hypoperfusion of his kidneys.
   IV diuresis with lasix may also be contributing.
   - Low sodium diet
   - Continue to follow.
   .
   FEN:  low sodium, heart healthy diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic anticoagulation
   -Bowel regimen
   CODE: DNR/DNI
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-12-24**] 03:05 PM
   18 Gauge - [**2186-12-24**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: